US06632810B2
Synthesis of methyl 5,6,7-trimethoxyindole-2-carboxylate:
Xylene (15 mL) was placed in a three-necked flask and stirred under reflux, and a xylene solution (30 mL) of methyl 3-(3,4,5-trimethoxyphenyl)-2-azidopropenoate (1.2 g) was added dropwise over 3 hours. The reaction mixture was refluxed for 1 hour and concentrated under reduced pressure. Water was added to the residue to conduct extraction with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane 1:3) to obtain the title compound.

reactant | methyl 3-(3,4,5-trimethoxyphenyl)-2-azidopropenoate | 1.2 g | COC=1C=C(C=C(C1OC)OC)C=C(C(=O)OC)N=[N+]=[N-] | C13H15N3O5
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | Xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 5,6,7-trimethoxyindole-2-carboxylate | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)OC | C13H15NO5
